US08686024B2
Synthesis of 1-benzyl-3,3-dimethylindolin-5-yl benzylcarbamate
The title compound was synthesized from 1-benzyl-3,3-dimethylindolin-5-ol (20.0 mg, 0.09 mmol) using the same procedure employed for Example 2 (2), but with benzylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (10.3 mg, 36%) having the following characteristics.

reactant | 1-benzyl-3,3-dimethylindolin-5-ol | 0.09 mmol, 20.0 mg | C(C1=CC=CC=C1)N1CC(C2=CC(=CC=C12)O)(C)C | C17H19NO
reactant | benzylisocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | 1-benzyl-3,3-dimethylindolin-5-yl benzylcarbamate | C(C1=CC=CC=C1)NC(OC=1C=C2C(CN(C2=CC1)CC1=CC=CC=C1)(C)C)=O | C25H26N2O2
